### PR TITLE
[Merged by Bors] - feat(Order/Partition): add `Rel`, relation induced by partition on Set

### PR DESCRIPTION
**Pull request by Jun2M**
**Main changes:**
* **Set partition API**: Adds a `Set` section with various useful lemmas for working with partitions of sets.
* **Induced relation**: Defines `Partition.Rel`, a transitive and symmetric binary relation (partial equivalence relation) induced by a partition of a set.

Co-authored-by: Peter Nelson <apn.uni@gmail.com>

---

- [x] depends on: #36574

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Partition/Basic.lean [hunk 1]
```diff
@@ -214,4 +215,106 @@ lemma parts_top_subset : ((⊤ : Partition s) : Set α) ⊆ {s} := by
...
+variable {S : Set (Set α)} {u s t : Set α} {a b c : α} {P Q : Partition u}
+
+section Set
+
+@[simp] protected lemma sUnion_eq (P : Partition s) : ⋃₀ P = s := P.sSup_eq
+
+lemma nonempty_of_mem (ht : t ∈ P) : t.Nonempty :=
+  notMem_singleton_empty.1 <| P.ne_bot_of_mem ht
+
+lemma empty_not_mem : ∅ ∉ P := P.bot_notMem
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Basic.lean]:
```suggestion
lemma empty_notMem : ∅ ∉ P := P.bot_notMem
```
is the convention now

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by bryangingechen** [comment]
Thanks!
bors d+

File: Mathlib/Order/Partition/Basic.lean [hunk 2]
```diff
@@ -214,4 +215,105 @@ lemma parts_top_subset : ((⊤ : Partition s) : Set α) ⊆ {s} := by
...
+  rw [← subset_sUnion_and_mem_iff_mem hSP]
+  simp [ht]
+
+end Set
+
+/-! ### Induced relation -/
+
+section Rel
+
+/-- Every partition of `s : Set α` induces a transitive, symmetric Binary relation on `α`
```
Comment (SnirBroshi) [inline Mathlib/Order/Partition/Basic.lean]:
```suggestion
/-- Every partition of `s : Set α` induces a transitive, symmetric binary relation on `α`
```

File: Mathlib/Order/Partition/Basic.lean [hunk 3]
```diff
@@ -214,4 +215,105 @@ lemma parts_top_subset : ((⊤ : Partition s) : Set α) ⊆ {s} := by
...
+  whose equivalence classes are the parts of `P`. The relation is irreflexive outside `s`. -/
+def Rel (P : Partition u) (a b : α) : Prop :=
```
Comment (SnirBroshi) [inline Mathlib/Order/Partition/Basic.lean]:
```suggestion
def Rel (P : Partition s) (a b : α) : Prop :=
```
to match the docstring

File: Mathlib/Order/Partition/Basic.lean [hunk 4]
```diff
@@ -214,4 +215,105 @@ lemma parts_top_subset : ((⊤ : Partition s) : Set α) ⊆ {s} := by
...
+lemma rel_rfl_iff : P.Rel x x ↔ x ∈ u := by
+  refine ⟨fun hx ↦ ?_, fun hx ↦ ?_⟩
+  · obtain ⟨t, ht, hxP, -⟩ := hx
+    exact subset_of_mem ht hxP
+  obtain ⟨t, ⟨ht, hxt⟩, -⟩ := P.mem_iff_unique.mp hx
+  exact ⟨t, ht, hxt, hxt⟩
+
+lemma rel_symmetric (P : Partition u) : Symmetric P.Rel :=
+  fun _ _ ⟨t, ht, ha, hb⟩ ↦ ⟨t, ht, hb, ha⟩
+
```
Comment (SnirBroshi) [inline Mathlib/Order/Partition/Basic.lean]:
```suggestion
```
The `Std.Symm` instance below covers this, you can use `symm ...` or `symm_of P.Rel ...` instead of `P.rel_symmetric ...`
